US08470814B2
(2) 5-[3-(5-oxo-4H-[1,2,4]oxadiazol-3-yl)phenyl]-1H-naphtho[1,2-b][1,4]diazepin-2,4(3H,5H)-dione
To a suspension of 5-[3-(N-hydroxyamidino)phenyl]-1H-naphtho[1,2-b][1,4]diazepin-2,4(3H,5H)-dione (36 mg, 0.1 mmol) in dichloromethane (18 mL) was added pyridine (0.012 mL, 0.15 mmol) and phenyl chlorocarbonate (0.016 mL, 0.13 mmol). The reaction mixture was stirred at room temperature for 1.5 hours, and cold water was added. After the mixture was stirred for 20 min, the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. A suspension of the obtained pale yellow crystal in acetonitrile (10 mL) was added 1,8-diazabicyclo[5,4,0]-7-undecene (0.03 mL, 0.2 mmol), stirred at room temperature for 15 minutes. After the solvent was removed, the residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to give a pale yellow crystal. The crystal was washed with chloroform to give the titled compound as white crystal (20 mg, yield 52%).

reactant | 5-[3-(N-hydroxyamidino)phenyl]-1H-naphtho[1,2-b][1,4]diazepin-2,4(3H,5H)-dione | 0.1 mmol, 36 mg | ONC(=N)C=1C=C(C=CC1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C20H16N4O3
reactant | pyridine | 0.15 mmol, 0.012 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 0.13 mmol, 0.016 mL | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 0.2 mmol, 0.03 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-[3-(5-oxo-4H-[1,2,4]oxadiazol-3-yl)phenyl]-1H-naphtho[1,2-b][1,4]diazepin-2,4(3H,5H)-dione | 20 mg, yield 52% | O=C1NC(=NO1)C=1C=C(C=CC1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C21H14N4O4
